US09079866B2
5-(2′-{[(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 5-(((2-bromophenyl)sulfonyl)methyl)-3-cyclopropyl-1,2,4-oxadiazole and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine. MS (ESI): mass calcd. for C22H18FN5O3S, 451.11; m/z found, 452.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.56 (s, 1H), 7.98-7.94 (m, 1H), 7.85-7.77 (dd, J=8.2, 6.9, 1H), 7.67-7.61 (m, 1H), 7.61-7.57 (m, 1H), 7.52-7.46 (d, J=7.6, 1H), 7.39-7.35 (dd, J=7.9, 1.6, 1H), 7.35-7.31 (m, 1H), 2.05-1.94 (m, 1H), 1.04-0.94 (m, 1H), 0.79-0.72 (m, 1H).

reactant | 5-(((2-bromophenyl)sulfonyl)methyl)-3-cyclopropyl-1,2,4-oxadiazole | BrC1=C(C=CC=C1)S(=O)(=O)CC1=NC(=NO1)C1CC1 | C12H11BrN2O3S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-(2′-{[(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrimidin-2-amine | C1(CC1)C1=NOC(=N1)CS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C22H18FN5O3S
